US08802659B2
7-(trans-4-tert-butylcyclohexyloxy) isoquinoline-3-carbaldehyde
Selenium dioxide (2.25 g, 20.3 mmol) was added to a solution of 7-(trans-4-tert-Butyl-cyclohexyloxy)-3-methyl-isoquinoline (2.01 g, 6.76 mmol) in Diphenyl ether (50 mL, 300 mmol) and the mixture was heated at 200° C. in a sealed tube for 4 hours. The reaction was then cooled to room temperature. Silica gel was added and the flask was placed in a cold water bath to solidify the diphenylether solvent. This solid mixture containing the crude product was purified by flash chromatography (0-30% EtOAc in hexanes) to give the title compound in 50% yield. ESI-MS (M+H+): 312.27

reactant | Selenium dioxide | 20.3 mmol, 2.25 g | [Se](=O)=O | O2Se
reactant | 7-(trans-4-tert-Butyl-cyclohexyloxy)-3-methyl-isoquinoline | 6.76 mmol, 2.01 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=CC=C2C=C(N=CC2=C1)C | C20H27NO
solvent | diphenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | Diphenyl ether | 300 mmol, 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-(trans-4-tert-butylcyclohexyloxy) isoquinoline-3-carbaldehyde | 50% yield | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=CC=C2C=C(N=CC2=C1)C=O | C20H25NO2
